US04581356
A solution of boron tribromide (4.59 g) in methylenechloride (5 ml) was added dropwise to a stirred suspension of 6-[1-(2-benzyloxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.38 g) in methylene chloride (200 ml) at -40° C. over a period of 10 minutes. After being stirred for 40 minutes at the same temperature, methanol (0.6 ml) was added to the suspension and evaporated in vacuo. The residue was dissolved in n-butanol, washed with brine, and evaporated in vacuo. The residual solid was washed with ethyl acetate and recrystallized from methanol to give 6-[1-(2-hydroxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.91 g), mp 237° to 243° C.

reactant | boron tribromide | 4.59 g | B(Br)(Br)Br | BBr3
reactant | 6-[1-(2-benzyloxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.38 g | C(C1=CC=CC=C1)OCCN1C(CCC2=CC(=CC=C12)C=1C(NC(NN1)=O)C)=O | C22H24N4O3
reactant | methanol | 0.6 ml | CO | CH4O
solvent | methylenechloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 6-[1-(2-hydroxyethyl)-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.91 g | OCCN1C(CCC2=CC(=CC=C12)C=1C(NC(NN1)=O)C)=O | C15H18N4O3
